US06541505B1
N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-(3-morpholin-4-yl-propylamino)-pyrimidin-4-yl]-benzamide.
Using 3-(morpholin-4-yl)-propylamine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates.

reactant | 3-(morpholin-4-yl)-propylamine | N1(CCOCC1)CCCN | C7H16N2O
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-(3-morpholin-4-yl-propylamino)-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)NCCCN1CCOCC1)=O | C29H31N7O2
